US05925632
(a) rac-2,4-Dibromo-N-isobutyl-butyramide
1.52 g (20.8 mmol) Isobutylamine were dissolved in 3 ml of water, and 13 ml dichloromethane were added. The mixture was cooled to 0° C. and vigorously stirred. A solution of 5.0 g (18.9 mmol) of 2,4-dibromobutanoic acid chloride (J. Med. Chem., 1987, 30, 1995) in 3 ml dichloromethane was added within 5 min. Thereafter a solution of 0.83 g (20.8 mmol) NaOH in 1.5 ml water was added a a rate resulting in the temperature remaining between 7 and 10° C. After complete addition, stirring was continued for 3 h at this temperature. Finally the phases were separated and the aqueous phase was extracted thrice with 15 ml dichloromethane. The combined organic phases were washed once with 17 ml 0.5M HCl, once with 14 ml 5% sodium bicarbonate solution and once with 10 ml brine and dried over magnesium sulfate. After evaporation of the solvent a colourless solid was obtained.

reactant | Isobutylamine | 20.8 mmol, 1.52 g | C(C(C)C)N | C4H11N
reactant | 2,4-dibromobutanoic acid chloride | 18.9 mmol, 5.0 g | BrC(C(=O)Cl)CCBr | C4H5Br2ClO
reactant | NaOH | 20.8 mmol, 0.83 g | [OH-].[Na+]
solvent | water | 3 ml | O | H2O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | water | 1.5 ml | O | H2O
solvent | dichloromethane | 13 ml | ClCCl | CH2Cl2
product | rac-2,4-Dibromo-N-isobutyl-butyramide | BrC(C(=O)NCC(C)C)CCBr | C8H15Br2NO
